US06632810B2
Synthesis of ethyl (3,4,5-trimethoxyphenylamino)-thioxoacetate:
Ethyl 3,4,5-trimethoxyoxanilate (3.0 g) was dissolved in benzene (20 mL), and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (2.14 g) was added to the solution. The reaction mixture was stirred at 80° C. for 1 hour, and water was added thereto. After conducting extraction with ethyl acetate, the resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to obtain the title compound.

reactant | Ethyl 3,4,5-trimethoxyoxanilate | 3.0 g | COC=1C=C(NC(C(=O)OCC)=O)C=C(C1OC)OC | C13H17NO6
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 2.14 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | water | O | H2O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | ethyl (3,4,5-trimethoxyphenylamino)-thioxoacetate | COC=1C=C(C=C(C1OC)OC)NC(C(=O)OCC)=S | C13H17NO5S
